US04293557
A mixture of 1 g of 3-[3-(1-piperidinylmethyl)phenoxy]propylamine, 1 g of sodium formate and 3 ml of formic acid was refluxed for 1 hour, and a greater portion of the solvent was distilled off under reduced pressure, and water was added to the residue. The mixture was alkalized with 4% sodium hydroxide solution. The product was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was separated and purified by thin-layer chromatography (TLC) (developing solvent: chloroform/methanol=9/l) to afford 436 mg of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formamide as an oil.

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]propylamine | 1 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | sodium formate | 1 g | C(=O)[O-].[Na+]
solvent | formic acid | 3 ml | C(=O)O | CH2O2
product | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formamide | 436 mg | N1(CCCCC1)CC=1C=C(OCCCNC=O)C=CC1 | C16H24N2O2
